US07375099B2
N-(3,5-Difluoro-benzyl)-2-ethyl-N′-(1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl)-malonamide
The title compound, MS: m/e=505.3 (M+H+), was prepared in analogy to example 16 from 3-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one and N-(3,5-difluoro-benzyl)-2-ethyl-malonamic acid.

reactant | 3-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
reactant | N-(3,5-difluoro-benzyl)-2-ethyl-malonamic acid | FC=1C=C(CNC(C(C(=O)O)CC)=O)C=C(C1)F | C12H13F2NO3
product | N-(3,5-Difluoro-benzyl)-2-ethyl-N′-(1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl)-malonamide | FC=1C=C(CNC(C(C(=O)NC2N=C(C3=C(N(C2=O)C)C=CC=C3)C3=CC=CC=C3)CC)=O)C=C(C1)F | C28H26F2N4O3
